US05314998
A mixture of 19.63 g 3-methyl-3-pyrazolin-5-one and 42.30 g 1-bromooctane was stirred and heated at 135° C. for 50 hour. After cooling, the reaction mixture was triturated with 200 ml water, treated with 17.00 g sodium bicarbonate in small portions, and heated to 100° C. for 1 hour. After cooling, the mixture was extracted with chloroform (3×100 ml portions). The combined extracts were dried over anhydrous calcium chloride and the solvent evaporated to give an oily residue crystallized from hexane (at -5° C.) to give 2,4-dihydro-5-methyl-2-octyl-3H-pyrazol-3-one (17.50 g, 42% yield) as white plates, m.p. 59° C.

reactant | 3-methyl-3-pyrazolin-5-one | 19.63 g | CC=1NNC(C1)=O | C4H6N2O
reactant | 1-bromooctane | 42.30 g | BrCCCCCCCC | C8H17Br
product | 2,4-dihydro-5-methyl-2-octyl-3H-pyrazol-3-one | 17.50 g, 42% yield | CC=1CC(N(N1)CCCCCCCC)=O | C12H22N2O
